US08466282B2
Tert-butyl (3S,5R)-3-[{[1-(3-amino-3-oxopropyl)-1H-benzimidazol-2-yl]carbonyl}(2-methylpropyl)amino]-5-(morpholin-4-ylcarbonyl)piperidine-1-carboxylate
3-(2-{[(3S,5R)-1-(tert-Butoxycarbonyl)-5-(morpholin-4-ylcarbonyl)piperidin-3-yl](2-methylpropyl)carbamoyl}-1H-benzimidazol-1-yl)propanoic acid (215 mg) and 1H-1,2,3-benzotriazol-1-ol ammonium salt (84 mg) were dissolved in DMF (5 ml), WSC.HCl (142 mg) was added and the mixture was stirred at room temperature for 15 hr. The reaction mixture was concentrated under reduced pressure, and the residue was diluted with 10% aqueous citric acid solution and extracted with ethyl acetate. The extract was washed with aqueous sodium bicarbonate and saturated brine, and dried over anhydrous sodium sulfate. The solvent was evaporated under reduced pressure. The residue was subjected to silica gel column chromatography, and a fraction eluted with ethyl acetate was concentrated under reduced pressure to give the object product (199 mg).

reactant | 3-(2-{[(3S,5R)-1-(tert-Butoxycarbonyl)-5-(morpholin-4-ylcarbonyl)piperidin-3-yl](2-methylpropyl)carbamoyl}-1H-benzimidazol-1-yl)propanoic acid | 215 mg | C(C)(C)(C)OC(=O)N1C[C@H](C[C@H](C1)C(=O)N1CCOCC1)N(C(=O)C1=NC2=C(N1CCC(=O)O)C=CC=C2)CC(C)C | C30H43N5O7
reactant | 1H-1,2,3-benzotriazol-1-ol ammonium salt | 84 mg | [NH4+].N1(N=NC2=C1C=CC=C2)O
reactant | WSC.HCl | 142 mg | CCN=C=NCCCN(C)C.Cl
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
product | Tert-butyl (3S,5R)-3-[{[1-(3-amino-3-oxopropyl)-1H-benzimidazol-2-yl]carbonyl}(2-methylpropyl)amino]-5-(morpholin-4-ylcarbonyl)piperidine-1-carboxylate | 199 mg | NC(CCN1C(=NC2=C1C=CC=C2)C(=O)N([C@@H]2CN(C[C@@H](C2)C(=O)N2CCOCC2)C(=O)OC(C)(C)C)CC(C)C)=O | C30H44N6O6
